US08703922B2
Mono-O-(5,9,13,17-tetramethyloctadec-4-enyl)pentaerythritol and water were homogeneously mixed in accordance with the same procedure as in Example 13 to obtain a sample of mono-O-(5,9,13,17-tetramethyloctadec-4-enyl)pentaerythritol/water system. SAXS analysis of the sample of mono-O-(5,9,13,17-tetramethyloctadec-4-enyl)pentaerythritol/water system was performed in the same manner as in Example 13. As a result, at least 3 sharp scattering peaks were observed. The peak value ratio exhibited the following ratio peculiar to the reverse hexagonal liquid crystal: 1:√{square root over (3)}:2.

reactant | Mono-O-(5,9,13,17-tetramethyloctadec-4-enyl)pentaerythritol | CC(=CCCCOCC(CO)(CO)CO)CCCC(CCCC(CCCC(C)C)C)C | C27H54O4
solvent | water | O | H2O
product | mono-O-(5,9,13,17-tetramethyloctadec-4-enyl)pentaerythritol water | CC(=CCCCOCC(CO)(CO)CO)CCCC(CCCC(CCCC(C)C)C)C.O | InChI=1S/C27H54O4.H2O/c1-23(2)11-8-13-25(4)15-10-17-26(5)16-9-14-24(3)12-6-7-18-31-22-27(19-28,20-29)21-30;/h12,23,25-26,28-30H,6-11,13-22H2,1-5H3;1H2
